US09193722B2
3-(3-fluoro-6-(4-methylpiperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine (Compound 226)
A mixture of 3-(3,6-difluoropyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine (100 mg, 0.430 mmol) and 1-methylpiperazine (100 uL, 0.901 mmol) and DIPEA (75 uL, 0.434 mmol) in NMP (1 ml) was allowed to stir at 140° C. overnight. The reaction mixture was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 A column, gradient 10%-95% B (solvent A: 0.05% TFA in water, solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, passed through a sodium bicarbonate cartridge and freeze-dried to give the title compound as a white solid (35 mg, 15% Yield).

reactant | 3-(3,6-difluoropyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine | 0.430 mmol, 100 mg | FC=1C(=NC(=CC1)F)C1=NNC2=NC=CC=C21 | C11H6F2N4
reactant | 1-methylpiperazine | 0.901 mmol, 100 uL | CN1CCNCC1 | C5H12N2
reactant | DIPEA | 0.434 mmol, 75 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 3-(3-fluoro-6-(4-methylpiperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyridine | 35 mg, 15% Yield | FC=1C(=NC(=CC1)N1CCN(CC1)C)C1=NNC2=NC=CC=C21 | C16H17FN6
